US04659862
Methyl α-Methyl-9-nitro-9,10-dihydroanthracene-10-acetate
To a solution of 0.757 g (3.39 mmol) of 9-nitroanthracene and 0.663 mL (3.56 mmol) of MTS in 20 mL of anhydrous THF was added 0.941 g (3.42 mmol) of TASF in 2 mL of anhydrous acetonitrile at -78° C. The mixture was stirred for 24 hr. at -78° C. Then, ten mL of saturated KH2PO4 and 20 mL of water were added, the mixture was warmed to room temperature, and the product was extracted into ether. The combined ether extract was washed with water, dried, and concentrated. The major product, 0.491 g (56%), was isolated by column chromatography on silica using 20° ether/hexane as the solvent. Addition of small amount of ether to the major fraction yielded a light yellow solid. The product was analyzed by ultraviolet absorption, infrared spectroscopy, nuclear magnetic resonance spectroscopy, and mass spectrometry.

reactant | 9-nitroanthracene | 3.39 mmol, 0.757 g | [N+](=O)([O-])C=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9NO2
reactant | TASF | 3.42 mmol, 0.941 g | CN(C)[S+](N(C)C)N(C)C.C[Si-](C)(C)(F)F
reactant | KH2PO4 | ten mL | OP(=O)(O)[O-].[K+]
reactant | water | 20 mL | O | H2O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | Methyl α-Methyl-9-nitro-9,10-dihydroanthracene-10-acetate | CC(C(=O)OC)C1C=2C=CC=CC2C(C2=CC=CC=C12)[N+](=O)[O-] | C18H17NO4
